US08236801B2
A.5.2 Synthesis of 6-methyl-pyrrolo[2,1-b]thiazole-7-carboxylic acid ethyl ester
Under nitrogen atmosphere a solution of dimethylzinc in toluene (1.2 M, 19.1 mL) is added to a mixture of 6-bromo-pyrrolo[2,1-b]thiazole-7-carboxylic acid ethyl ester (11.4 mmol) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.23 mmol, complex with CH2Cl2) in dioxane (35 mL). The mixture is heated to reflux for 2 h, stirred at rt for 12 h and diluted by addition of MeOH (2.3 mL) and TBME. The mixture is washed with hydrochloric acid (1.0 M) and water, dried over MgSO4, concentrated in vacuo and purified by flash chromatography (gradient: heptane to heptane/EtOAc 8/2) to give the desired product. LC-MS: tR=0.91 min; [M+H]+=210.0.

reactant | dimethylzinc | C[Zn]C
reactant | 6-bromo-pyrrolo[2,1-b]thiazole-7-carboxylic acid ethyl ester | 11.4 mmol | C(C)OC(=O)C=1C(=CN2C1SC=C2)Br | C9H8BrNO2S
reactant | MeOH | 2.3 mL | CO | CH4O
reactant | TBME | CC(C)(C)OC | C5H12O
solvent | toluene | 1.2 M, 19.1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.23 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-methyl-pyrrolo[2,1-b]thiazole-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=CN2C1SC=C2)C | C10H11NO2S
